US07576215B2
(2-METHYLPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE
N-Methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide (0.100 g, 0.278 mmol) was taken into THF (3 mL) and cooled to 0° C. where 2-methylphenylmagnesium bromide was added. The reaction was then allowed to stir at room temperature overnight. The reaction was quenched with MeOH and 2 M HCl and stirred for 5 minutes. The organics were removed and the resulting aqueous layer was extracted with methylene chloride, dried and concentrated. Column chromatography using 10% ethyl acetate in hexane afforded 0.057 g of the desired product as a white solid. MS (ESI) m/z 392 ([M+H]+); Anal. Calcd. for C24H16F3NO: C, 73.65; H, 4.12; N, 3.58. Found: C, 73.88; H, 3.87; N, 3.29.

reactant | N-Methoxy-N-methyl-4-phenyl-8-(trifluoromethyl)quinoline-3-carboxamide | 0.278 mmol, 0.100 g | CON(C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F)C | C19H15F3N2O2
reactant | 2-methylphenylmagnesium bromide | CC1=C(C=CC=C1)[Mg]Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2-METHYLPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | 0.057 g | CC1=C(C=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C24H16F3NO
